US07091214B2
N-[2-(4-Amino-7-bromo-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]methanesulfonamide was coupled with potassium vinyltrifluoroborate according to the procedure described in Part D of Examples 440–455 and recrystallized from acetonitrile to provide N-[2-(4-amino-2-butyl-7-vinyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]methanesulfonamide as an off-white solid.

reactant | N-[2-(4-Amino-7-bromo-2-butyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]methanesulfonamide | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CCNS(=O)(=O)C)CCCC)Br | C17H22BrN5O2S
reactant | potassium vinyltrifluoroborate | C(=C)[B-](F)(F)F.[K+]
product | N-[2-(4-amino-2-butyl-7-vinyl-1H-imidazo[4,5-c]quinolin-1-yl)ethyl]methanesulfonamide | NC1=NC=2C=C(C=CC2C2=C1N=C(N2CCNS(=O)(=O)C)CCCC)C=C | C19H25N5O2S
